US07652051B2
Synthesis of 4-[4-(5-{[4-chloro-3-(trifluoromethyl)phenyl]amino}-1,3,4-oxadiazol-2-yl)phenoxy]-N-methylpyridine-2-carboxamide trifluoroacetate salt
4-(5-{[4-chloro-3-(trifluoromethyl)-phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol (100 mg, 0.281 mmol) was dissolved in ca. 2 mL of anhydrous DMF under argon. Solid potassium bis(trimethylsilyl)amide (140.2 mg, 0.702 mmol) was added and the resulting yellow solution was heated at 80° C. for 15 min. Then solid K2CO3 (19.4 mg, 0.140 mmol) was added, followed by 4-chloro-2-pyridine-carboxamide (52.7 mg, 0.309 mmol). The reaction mixture was microwaved at 200 C for 15 min. Then it was diluted with 1 mL of MeOH, filtered through 0.22 um syringe filter and purified by preparative reverse-phase chromatography using acetonitrile/water gradient with 0.1% TFA. The major peak having the mass of the product was collected; solvent was removed in vacuo to give the title product as a white solid (67.5 mg).

reactant | 4-(5-{[4-chloro-3-(trifluoromethyl)-phenyl]amino}-1,3,4-oxadiazol-2-yl)phenol | 0.281 mmol, 100 mg | ClC1=C(C=C(C=C1)NC1=NN=C(O1)C1=CC=C(C=C1)O)C(F)(F)F | C15H9ClF3N3O2
reactant | potassium bis(trimethylsilyl)amide | 0.702 mmol, 140.2 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | K2CO3 | 0.140 mmol, 19.4 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloro-2-pyridine-carboxamide | 0.309 mmol, 52.7 mg | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
solvent | DMF | ca. 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1 mL | CO | CH4O
product | 4-[4-(5-{[4-chloro-3-(trifluoromethyl)phenyl]amino}-1,3,4-oxadiazol-2-yl)phenoxy]-N-methylpyridine-2-carboxamide trifluoroacetate salt | 67.5 mg | FC(C(=O)O)(F)F.ClC1=C(C=C(C=C1)NC1=NN=C(O1)C1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)C(F)(F)F | InChI=1S/C22H15ClF3N5O3.C2HF3O2/c1-27-19(32)18-11-15(8-9-28-18)33-14-5-2-12(3-6-14)20-30-31-21(34-20)29-13-4-7-17(23)16(10-13)22(24,25)26;3-2(4,5)1(6)7/h2-11H,1H3,(H,27,32)(H,29,31);(H,6,7)
